US07851471B2
(3R)-3-[4-(4-Fluorophenyl)-piperazine-1-carbonyloxymethyl]-morpholine-4-carboxylic acid tert-butyl ester (5.07 g, 12.0 mmol) was stirred in dry dioxane (35 mL) at room temperature and HCl in dioxane (4M; 15 mL, 60 mmol) was added dropwise. The reaction mixture was stirred for 24 h at room temperature. A further portion of HCl in dioxane (4M; 10 mL, 40 mmol) was added and stirred overnight. The dioxane was decanted and the residual gum was washed with dioxane (×3) and Et2O (×2). The residue was partitioned between DCM (300 mL) and 1.2M aqueous NaHCO3. The aqueous layer was extracted with DCM (2×200 mL). The combined DCM extracts were dried (Na2SO4) and the solvent removed in vacuo. The residue was dissolved in DCM and dried in vacuo to give (3R)-morpholin-3-ylmethyl 4-(4-fluorophenyl)piperazine-1-carboxylate (3.87 g, quant.) as an off white solid.

reactant | (3R)-3-[4-(4-Fluorophenyl)-piperazine-1-carbonyloxymethyl]-morpholine-4-carboxylic acid tert-butyl ester | 12.0 mmol, 5.07 g | C(C)(C)(C)OC(=O)N1[C@H](COCC1)COC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C21H30FN3O5
reactant | HCl | Cl | ClH
solvent | dioxane | 35 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 40 mmol, 4M, 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 60 mmol, 4M, 15 mL | O1CCOCC1 | C4H8O2
product | (3R)-morpholin-3-ylmethyl 4-(4-fluorophenyl)piperazine-1-carboxylate | 3.87 g | FC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC[C@@H]1NCCOC1 | C16H22FN3O3
